US08563617B2
279.2 Acetic acid 2-[cyclopropyl-(propane-1-sulfonyl)-amino]ethyl ester
A mixture of propane-1-sulfonic acid cyclopropyl amide (1.3 g, 8 mmol), K2CO3 (2.4 g, 14.4 mmol) and acetic acid 2-bromo-ethyl ester (9.5 g, 16 mmol) mmol) in 10 ml acetone was heated for 6 h to 120° C. in the microwave (Biotage). After cooling the mixture was filtered and the solvent evaporated to obtain 1.7 g of product as an oil which was used without further purification in the next step.

reactant | propane-1-sulfonic acid cyclopropyl amide | 8 mmol, 1.3 g | C1(CC1)NS(=O)(=O)CCC | C6H13NO2S
reactant | K2CO3 | 14.4 mmol, 2.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetic acid 2-bromo-ethyl ester | 16 mmol, 9.5 g | BrCCOC(C)=O | C4H7BrO2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | Acetic acid 2-[cyclopropyl-(propane-1-sulfonyl)-amino]ethyl ester | 1.7 g | C1(CC1)N(CCOC(C)=O)S(=O)(=O)CCC | C10H19NO4S
